US08304419B2
Step B: {3-[(3-bromo-5-chlorophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid
The crude bis(1,1-dimethylethyl) {3-[(3-bromo-5-chlorophenyl)oxy]-2-fluoro-4-nitrophenyl}propanedioate was dissolved in CH2Cl2 (100 mL) and TFA (50 mL) and heated to 40° C. for 3 h. The reaction mixture was cooled to RT and concentrated. Water (200 mL) and EtOAc (100 mL) were added, the layers were separated and the aqueous layer extracted with EtOAc (2×100 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated to give the title compound as an oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.17 (br s, 1H), 8.01 (dd, 1H), 7.58 (dd, 1H), 7.50 (s, 1H), 7.23 (s, 1H), 7.15 (s, 1H), 3.84 (s, 2H).

reactant | bis(1,1-dimethylethyl) {3-[(3-bromo-5-chlorophenyl)oxy]-2-fluoro-4-nitrophenyl}propanedioate | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)F | C23H24BrClFNO7
reactant | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | {3-[(3-bromo-5-chlorophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid | BrC=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1[N+](=O)[O-])CC(=O)O)F | C14H8BrClFNO5
